reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C@:2]12[C:3]([H:11])=[C:4]([H:13])[C@@:7]1([H:15])[C@:6]2([O:5][H:12])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]12[C:3]([H:11])([H:12])[C@@:4]3([H:13])[O:5][C@:6]1([H:14])[C@@:7]23[H:15])([H:8])([H:9])[H:10],102.33491967567115
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([O:5][C:6](=[O:7])[H:13])[H:12])[H:8]>>[C-:6]#[O+:7].[O:1]([C@@:2]([C:3]([H:10])([H:11])[H:13])([C:4](=[O:5])[H:12])[H:9])[H:8],56.861473748771296
[C:1]([C:2](=[O:3])[C:4]([C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3][C:5]([O:6][H:14])([H:12])[H:13])=[C:4]([H:10])[H:11])([H:7])([H:8])[H:9],83.26248413463321
[O:1]=[C:2]([C:3]([C:4]([C:5](=[O:6])[H:12])([H:7])[H:11])([H:9])[H:10])[H:8]>>[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5](=[O:6])[H:12])[H:11])[H:7],64.3926436439382
[O:1]=[C:2]([C:3]([C:4]#[C:5][H:10])([H:8])[H:9])[N+:7]#[C-:6]>>[O:1]=[C:2]([C:3]([C:4]#[C:5][H:10])([H:8])[H:9])[C:6]#[N:7],30.267115758100303
[C:1](=[C:2]([C:3]([C@:4]1([H:13])[C:5]([H:9])([H:14])[O:6]1)([H:11])[H:12])[H:10])([H:7])[H:8]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5](=[O:6])[H:14])[H:13])([H:7])([H:8])[H:9],77.0032241887052
[C:1]([O:2][C:3]([C:6]([C:4]([C:5]([H:14])([H:15])[H:16])([H:13])[H:17])=[O:7])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],79.60491643464697
[C:1]([C@@:2]1([H:11])[O:3][C:4]([H:12])([H:13])/[C:5](=[N:6]/[H:14])[O:7]1)([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4](/[C:5](=[N:6]/[H:14])[H:11])([H:12])[H:13])=[O:7])([H:8])([H:9])[H:10],78.8947658595749
[C:1]([C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[O:5][C:6]([H:16])=[N:7]1)([H:8])([H:9])[H:10]>>[C:1]1([H:9])([H:10])[C@@:2]([C:3]([H:11])([H:12])[H:13])([C:4]([O:5][H:8])([H:14])[H:15])[N:7]=[C:6]1[H:16],110.159236411711
[C:1]([C:2]#[N+:3][O-:4])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:11])[H:12].[H:10][H:13]>>[C:1](/[C:2](=[N:3]/[O:4][H:10])[C:5]([O:6][H:13])([H:11])[H:12])([H:7])([H:8])[H:9],62.74981937211731
[C:1]([C:2]([O:3][C-:4]=[N+:5]=[C:6]([H:13])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9].[H:12][H:14]>>[C:1]([C:2]([O:3]/[C:4](=[N:5]/[C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],15.0030784896434
[C:1]([C:2]([C:3]([O:4][C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([O+:4]=[C-:5][O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],76.3409903417339
[C:1]([O:2][C:3]([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2][H:13])([H:7])([H:8])[H:9].[C:3](=[C:4]([C:5](=[O:6])[H:14])[H:12])([H:10])[H:11],56.1861190723486
[C:1]([O:2][C:3]([C:4]([O:5][H:13])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([O:2][C:3](=[C:4]([H:11])[H:12])[H:10])([H:6])([H:7])[H:8].[O:5]([H:9])[H:13],71.7133166620166
[C:1]([C:2](=[C:3]=[O:4])[H:11])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:10])[H:12]>>[C:1]([C:2]([C:3](=[O:4])[C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],47.1643696653083
[C:1]([C:2]1([C:5]#[N:6])[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C:2][C:4]([C:3]([C:5]#[N:6])([H:10])[H:11])([H:12])[H:13])([H:7])([H:8])[H:9],81.2024094929668
[C@@:3]1([N:4]([H:12])[H:13])([H:11])[C:5]([H:8])=[N:6]1.[N:1](=[C:2]([H:9])[H:10])[H:7]>>[N:1]([C:2]([C@@:3]([N:4]([H:12])[H:13])([C:5]#[N:6])[H:11])([H:9])[H:10])([H:7])[H:8],35.52157046347892
[C:1]([C-:2]([N+:3]1=[C:4]([H:13])[C:5]([H:14])=[N:6][C:7]1([H:11])[H:15])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([n:3]1[c:4]([H:13])[c:5]([H:14])[n:6][c:7]1[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],55.28922025490711
[C:1](#[C:2][C@@:3]1([H:7])[C-:4]([H:8])[N+:5]1([H:9])[H:10])[H:6]>>[C:1](#[C:2][C@@:3]1([H:7])[C:4]([H:8])([H:9])[N:5]1[H:10])[H:6],14.12272547245911
[C:1]([C:2](/[C:3](=[C:4](\[O:5][H:11])[H:13])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([C:4](=[O:5])[H:13])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8],60.3451874125667
[C:1]([C:2](=[C:3]([H:13])[H:14])[H:12])([H:8])([H:9])[H:10].[C:4](=[C:5]=[C:6]([C:7]([H:17])([H:18])[H:19])[H:11])([H:15])[H:16]>>[C:1]([C:2]([C:3]([C:4]([C:5]#[C:6][C:7]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],38.9766963062891
[N:1](=[C:2](/[O:3][H:6])[C:4](=[O:5])[H:8])\[H:7]>>[N:1]([C:2](=[O:3])[C:4](=[O:5])[H:8])([H:6])[H:7],33.5254134594748
[O:1]1[C:2]([H:9])([H:10])[C@:3]([C:4](=[O:5])[H:12])([H:11])[C:6]1=[C:7]([H:8])[H:13]>>[O:1]([C:2]([C@@:3]([C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:9])[H:10])[H:8],87.8793733935067
[C:4]([C:5]#[C:6][H:11])([H:8])([H:9])[H:10].[N:1](=[C:2]=[O:3])[H:7]>>[N:1]([C:2](=[O:3])[C:4]([C:5]#[C:6][H:11])([H:9])[H:10])([H:7])[H:8],73.6095923731147
[O:1]([C:2]([C:3]([C:4]([C:5]#[N:6])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7]>>[C:2](=[C:3]([C:4]([C:5]#[N:6])([H:12])[H:13])[H:11])([H:8])[H:9].[O:1]([H:7])[H:10],68.3317955535705
